US07595327B2
Methyl 3-methyl-4-oxo-tetrahydro-2H-pyran-3-carboxylate (2.33 g, 13.53 mmol) was dissolved in toluene (150 mL) and treated with R-(+)-α-methylbenzylamine (3.96 mL, 2.3 eq) and ytterbium (III) trifluoromethanesulfonate (252 mg, 0.03 eq). The mixture was heated to reflux under Dean-Stark conditions overnight, and then concentrated to provide crude methyl 3-methyl-4-((R)-1-phenylethylimino)-tetrahydro-2H-pyran-3-carboxylate that was used in the next step without further purification.

reactant | Methyl 3-methyl-4-oxo-tetrahydro-2H-pyran-3-carboxylate | 13.53 mmol, 2.33 g | CC1(COCCC1=O)C(=O)OC | C8H12O4
reactant | R-(+)-α-methylbenzylamine | 3.96 mL, 2.3 eq | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | ytterbium (III) trifluoromethanesulfonate | 252 mg, 0.03 eq | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-methyl-4-((R)-1-phenylethylimino)-tetrahydro-2H-pyran-3-carboxylate | CC1(COCCC1=N[C@H](C)C1=CC=CC=C1)C(=O)OC | C16H21NO3
